US07402581B2
3-Cyano-N-[2-(4-fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide (460 mg, 0.96 mmol) was dissolved in methanol (10 mL) together with 4-toluenesulfonic acid (37 mg, 0.2 mmol) and the solution was stirred at room temperature overnight. An aqueous solution of NaHCO3 together with CH2Cl2 was added and the organic solution was then washed with brine, dried and the solvent removed by evaporation. There was obtained 350 mg (92%) of 3-cyano-N-[2-(4-fluoro-2-methylphenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide as an oil. 1H NMR (300 MHz, CDCl3): 1.0-2.3 (cm, 6H), 2.4 (s, 3H), 2.6 (s, 3H), 2.7-4.5 (cm, 10H), 6.4-7.4 (cm, 5H).

reactant | 3-Cyano-N-[2-(4-fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide | 0.96 mmol, 460 mg | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)N(C)CC(CCOC1OCCCC1)C1=C(C=C(C=C1)F)C | C29H35FN2O3
reactant | 4-toluenesulfonic acid | 0.2 mmol, 37 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 3-cyano-N-[2-(4-fluoro-2-methylphenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide | 350 mg, 92% | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)N(C)CC(CCO)C1=C(C=C(C=C1)F)C | C24H27FN2O2
